US08835428B2
Step 3: (Z)—N-hydroxy-3-methyl-4-nitrobenzimidoyl chloride:
To a solution of (E)-3-methyl-4-nitrobenzaldehyde oxime (1.0 equiv.) in dimethylformamide, N-chlorosuccinimide (1.2 equiv.) was added in 3 portions over the period of 1 hr and the reaction mixture was stirred at r.t. for 5 hours. DMF was evaporated and the residue was diluted with EtOAc. The organic layer was washed with water, brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography on silica gel, eluting with 5% ethyl acetate in petroleum ether (60-80), to provide the title compound as a creamish solid (78%); 1H NMR (300 MHz, DMSO-d6) δ: 2.55 (s, 3H), 7.81-7.84 (d, J=8.7 Hz, 2H), 7.86 (s, 1H), 8.04-8.07 (d, J=8.4 Hz, 1H), 12.86 (s, 1H); IR (KBr) 3320, 3105, 2925, 1607, 1583, 1521, 1440, 1387, 1358, 1310, 1259, 1183, 1010, 860 cm−1.

reactant | (E)-3-methyl-4-nitrobenzaldehyde oxime | 1.0 equiv. | CC=1C=C(/C=N/O)C=CC1[N+](=O)[O-] | C8H8N2O3
reactant | N-chlorosuccinimide | 1.2 equiv. | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | (Z)—N-hydroxy-3-methyl-4-nitrobenzimidoyl chloride | O\N=C(\C1=CC(=C(C=C1)[N+](=O)[O-])C)/Cl | C8H7ClN2O3
